US07794896B2
Preparation of 4′-methoxy-2,4-dinitrostilbene.
To a 2 liter 3-necked round-bottomed flask equipped with a condenser, a Dean-Stark trap, a mechanical stirrer, nitrogen inlet, heating mantle, thermometer, and a Therm-o-watch® temperature controller, was added p-anisaldehyde (149.8 grams, 1.1 moles), 2,4-dinitrotoluene (182 grams, 1.0 mole), xylene (500 milliliters), and piperidine (50 milliliters, 0.5 mole). The resulting mixture was heated with the temperature on the Therm-o-watch® temperature controller set at 145° C. After stirring and heating for about 2 hours, approximately 20 milliliters of water had collected in the Dean-Stark trap. The reaction solution was allowed to cool to room temperature, and then further cooled with an ice water bath for an additional hour during which time the desired product crystallized from the solution. The solid material was filtered, rinsed with pentane, and dried in a vacuum oven at 100° C. for 12 hours to give 257.1 grams (85.6 percent of theory) of the desired product as a dark red crystalline solid.

reactant | p-anisaldehyde | 1.1 moles, 149.8 grams | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | 2,4-dinitrotoluene | 1.0 mole, 182 grams | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6N2O4
reactant | piperidine | 0.5 mole, 50 milliliters | N1CCCCC1 | C5H11N
solvent | xylene | 500 milliliters | C=1(C(=CC=CC1)C)C | C8H10
product | 4′-methoxy-2,4-dinitrostilbene | COC1=CC=C(C=CC2=C(C=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C=C1 | C15H12N2O5
